US05294718
To a solution of 100 mg of ethyl 3-chloro-4-trifluoromethylcinnamate and 1.8 ml of concentrated sulfuric acid was added 42 ml of 60% nitric acid at -15° C. After stirring at the same temperature for a few minutes, the reaction mixture was poured into a cold water, and extracted with ethyl acetate. The extract was washed with water, dried, and evaporated. The residue was purified by a silica gel column chromatography to give 102 mg of ethyl 5-chloro-2-nitro-4-trifluoromethylcinnamate.

reactant | ethyl 3-chloro-4-trifluoromethylcinnamate | 100 mg | ClC=1C=C(C=CC(=O)OCC)C=CC1C(F)(F)F | C12H10ClF3O2
reactant | sulfuric acid | 1.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 42 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | ethyl 5-chloro-2-nitro-4-trifluoromethylcinnamate | 102 mg | ClC=1C(=CC(=C(C=CC(=O)OCC)C1)[N+](=O)[O-])C(F)(F)F | C12H9ClF3NO4
